US08609680B2
Methyl 2-(2-methoxy-2-oxoethyl)pyrazolo[1,5-a]pyridine-3-carboxylate (42.0 mg, 0.17 mmol), as prepared according to the procedure described in Stefan Löber, S.; Hübner, H.; Gmeiner B.; Biorg. Med. Chem. Lett. 12(17), 2377 (2002), was dissolved in MeOH (5 mL) and was hydrogenated on an H-Cube® hydrogenation apparatus with 10% Pd/C at 40° C. for 1 hour. The methanol solution was removed in vacuo to afford methyl 2-(2-methoxy-2-oxoethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylate (39 mg, 91%), which was used directly in the next step without further purification.

reactant | Methyl 2-(2-methoxy-2-oxoethyl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.17 mmol, 42.0 mg | COC(CC1=NN2C(C=CC=C2)=C1C(=O)OC)=O | C12H12N2O4
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-(2-methoxy-2-oxoethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylate | 39 mg, 91% | COC(CC1=NN2C(CCCC2)=C1C(=O)OC)=O | C12H16N2O4
